US08029919B2
10-Methyl-3,7-bis(2-naphthyl)phenothiazine
9.30 g (25.1 mmol) of 3,7-dibromo-10-methylphenothiazine, 9.50 g (55.2 mmol) of 2-naphthylboronic acid, 0.407 g (0.50 mmol) of bis(triphenylphosphine)palladium dichloride and 3.80 g (27.5 mmol) of potassium carbonate were heated to boiling under reflux under nitrogen for 5 hours in 204 ml of dimethoxyethane and 101 ml of water. The reaction mixture was cooled to room temperature, stirred further overnight and then filtered. The residue was washed with 470 ml of ethanol and hot water, and then dried at 70° C. under reduced pressure. The solid was dissolved in 200 ml of methylene chloride and filtered through silica gel. After the solvent had been removed under reduced pressure, 9.6 g of greenish-yellow solid were obtained (melting point 276-281° C.) and were recrystallized from 500 ml of toluene. 7.10 g (81% of theory) of analytically pure, shiny yellow microcrystals having a melting point of 285-289° C. were obtained, whose solution in chloroform fluoresced at λ=402 nm.

reactant | 3,7-dibromo-10-methylphenothiazine | 25.1 mmol, 9.30 g | BrC=1C=CC=2N(C3=CC=C(C=C3SC2C1)Br)C | C13H9Br2NS
reactant | 2-naphthylboronic acid | 55.2 mmol, 9.50 g | C1=C(C=CC2=CC=CC=C12)B(O)O | C10H9BO2
reactant | potassium carbonate | 27.5 mmol, 3.80 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethoxyethane | 204 ml | C(OC)COC | C4H10O2
solvent | water | 101 ml | O | H2O
catalyst | bis(triphenylphosphine)palladium dichloride | 0.50 mmol, 0.407 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 10-Methyl-3,7-bis(2-naphthyl)phenothiazine | 9.6 g | CN1C2=CC=C(C=C2SC=2C=C(C=CC12)C1=CC2=CC=CC=C2C=C1)C1=CC2=CC=CC=C2C=C1 | C33H23NS
